US05145869
A mixture of 3,4-dichlorobenzenethiol (0.20 ml), di-tert-butyl 2-methyleneadipate (350 mg), ethanol (2 ml), and triton B (40% methanol solution, 2 drops) was stirred at 170° C. in a sealed tube for 17 hours. After the reaction mixture was concentrated in vacuo, the resulting residue was dissolved in chloroform, washed with a 0.5% sodium hydroxide solution, water and a saturated sodium chloride solution respectively, and dried over MgSO4. The solvent was evaporated at reduced pressure, and the residue was purified by flash column chromatography on silica by eluting with diethyl ether/hexane (1:10) to give 430 mg of di-tert-butyl 2-(3,4-dichlorophenylthiomethyl)adipate as an oil.

reactant | 3,4-dichlorobenzenethiol | 0.20 ml | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | di-tert-butyl 2-methyleneadipate | 350 mg | C=C(C(=O)OC(C)(C)C)CCCC(=O)OC(C)(C)C | C15H26O4
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | di-tert-butyl 2-(3,4-dichlorophenylthiomethyl)adipate | 430 mg | ClC=1C=C(C=CC1Cl)SCC(C(=O)OC(C)(C)C)CCCC(=O)OC(C)(C)C | C21H30Cl2O4S
